US08293768B2
Following the procedure as described in step B of Preparation 2, making variations as required to replace N-(2,2-dimethoxyethyl)-4-fluoroaniline with 2,2-dimethoxy-N-(4-(trifluoromethyl)benzyl)ethanamine to react with 2-amino-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide, 2-(3-(2,2-dimethoxyethyl)-3-(4-(trifluoromethyl)benzyl)ureido)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide was obtained in 52% yield: 1H NMR (300 MHz, CDCl3) δ 8.49 (d, J=1.5 Hz, 1H), 8.39-8.37 (m, 1H), 7.76-7.60 (m, 3H), 7.45 (d, J=8.1 Hz, 2H), 7.27 (d, J=8.1 Hz, 2H), 7.19-7.15 (m, 1H), 4.71-4.40 (m, 5H), 3.40 (d, J=4.8 Hz, 2H), 3.27 (s, 6H), 2.51 (s, 3H); MS (ES+) m/z 538.5 (M+1).

reactant | N-(2,2-dimethoxyethyl)-4-fluoroaniline | COC(CNC1=CC=C(C=C1)F)OC | C10H14FNO2
reactant | 2,2-dimethoxy-N-(4-(trifluoromethyl)benzyl)ethanamine | COC(CNCC1=CC=C(C=C1)C(F)(F)F)OC | C12H16F3NO2
reactant | 2-amino-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | NC=1SC(=C(N1)C)C(=O)NCC=1C=NC=CC1 | C11H12N4OS
product | 2-(3-(2,2-dimethoxyethyl)-3-(4-(trifluoromethyl)benzyl)ureido)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 52% yield | COC(CN(C(NC=1SC(=C(N1)C)C(=O)NCC=1C=NC=CC1)=O)CC1=CC=C(C=C1)C(F)(F)F)OC | C24H26F3N5O4S
